US06313127B1
A solution of diethyl azodicarboxylate (1.73 ml) in dried tetrahydrofuran (10 ml) was added dropwise to a stirred mixture of triphenylphosphine (3.15 g), 4-cyanophenol (1.31 g) and 4-(3-hydroxy-1-pyrrolidinyl)pyridine (1.64 g) in dried tetrahydrofuran (45 ml), under an atmosphere of argon, at 5-7° C. The resulting solution was stirred at ambient temperature for 16 hours. The solid, which had separated, was filtered off and washed with diethyl ether to give 4-[3-(4-cyanophenoxy)-1-pyrrolidinyl]pyridine (823 mg) as an off-white solid, mp 182-185° C.

reactant | diethyl azodicarboxylate | 1.73 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 3.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-cyanophenol | 1.31 g | C(#N)C1=CC=C(C=C1)O | C7H5NO
reactant | 4-(3-hydroxy-1-pyrrolidinyl)pyridine | 1.64 g | OC1CN(CC1)C1=CC=NC=C1 | C9H12N2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 45 ml | O1CCCC1 | C4H8O
product | 4-[3-(4-cyanophenoxy)-1-pyrrolidinyl]pyridine | 823 mg | C(#N)C1=CC=C(OC2CN(CC2)C2=CC=NC=C2)C=C1 | C16H15N3O
